US08975263B2
6-Methoxy-2-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzaldehyde
Bis(triphenylphosphine)palladium(II) dichloride (4.14 g, 5.78 mmol) was added to a suspension of 3-bromo-6-methoxy-2-methylbenzaldehyde (26.5 g, 116 mmol) as a known compound, bis(pinacolato)diboron (31.8 g, 121 mmol), and potassium acetate (35.1 g, 347 mmol) in 1,4-dioxane (265 ml) under a nitrogen atmosphere, and the mixture thus obtained was then stirred under heating to reflux for 6 hours. After air-cooling, water was added to the reaction solution, and the mixed solution was then extracted with ethyl acetate. The organic layer thus obtained was dried over anhydrous sodium sulfate. The solvent was distilled away under reduced pressure, and the residue thus obtained was then purified by silica gel column chromatography (ethyl acetate:hexane=1:9 to 1:8, v/v). The solid thus obtained was washed with a mixed solution of diethyl ether and hexane, followed by collection by filtration and drying, to obtain the title compound (22.0 g, yield: 69%).

reactant | 3-bromo-6-methoxy-2-methylbenzaldehyde | 116 mmol, 26.5 g | BrC=1C(=C(C=O)C(=CC1)OC)C | C9H9BrO2
reactant | bis(pinacolato)diboron | 121 mmol, 31.8 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 347 mmol, 35.1 g | C(C)(=O)[O-].[K+]
reactant | water | O | H2O
solvent | 1,4-dioxane | 265 ml | O1CCOCC1 | C4H8O2
catalyst | Bis(triphenylphosphine)palladium(II) dichloride | 5.78 mmol, 4.14 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 6-Methoxy-2-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzaldehyde | 22.0 g, yield: 69% | COC1=CC=C(C(=C1C=O)C)B1OC(C(O1)(C)C)(C)C | C15H21BO4
